US07199126B2
5.0 g (8.6 mmole) of atorvastatin calcium was dissolved in 300 mL ethyl acetate and washed with 300 mL 10% (w/v) aqueous sodium hydrogen sulfate solution (pH 3). The organic phase was dried over anhydrous magnesium sulfate, filtered and the solvent removed under reduced pressure to afford 2.85 g (5.11 mmole) of atorvastatin acid. This material was dissolved in 300 mL anhydrous toluene and heated at 60° C. for 40 hours, at which time analytical thin-layer chromatography using 4:1 methylene chloride:acetone eluent indicated near-complete conversion of the starting acid to a less polar product. The toluene was removed under reduced pressure and the reaction mixture was fractionated on 300 cc of silica gel using 4:1 methylene chloride: acetone eluent to afford, after combining, concentrating and drying of the appropriate fractions, 2.14 g (3.96 mmol, 46% overall) of atorvastatin lactone as a white foam. The 400 MHz 1H nuclear magnetic resonance (NMR) spectrum and the electrospray mass spectrum (ES-MS) were consistent with the lactone product. 1H NMR (Me2SO-d6) δ 9.80 (s, 1H), 7.49 (d, 2H), 7.25–7.15 (m, 6H), 7.05 (s, 4H), 6.99 (t, 2H), 5.15 (d, 1H), 4.46 (br s, 1H), 4.02 (s, 1H), 3.97 (m, 1H), 3.89 (m, 1H), 3.21 (q, 1H), 2.55 (dd, 1H), 2.32 (dd, 1H), 1.74 (br s, 2H), 1.6 (m, 2H), 1.36 (d, 6H). ES-MS: obsvd. m/z 541 ([MH]+).

reactant | atorvastatin calcium | 8.6 mmole, 5.0 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | atorvastatin acid | 5.11 mmole, 2.85 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | 2C33H35FN2O5
